US05070196
1-[7-[4-Methyl-1-(3-methylbutyl)pentylamino]heptyl]-piperidine
To a solution of 1.70 g of 2,8-dimethylnonan-5-one and 1.98 g of 1-(7-aminoheptyl)piperidine in 50 ml of methanol was added 6 N hydrochloric acid-ethanol to have a pH value of approx. 7 (pH test paper). To the resulting solution was added under cooling 1.26 g of sodium borohydride all at once. The resulting mixture was stirred under chilling with ice for one hour, and then stirred overnight at room temperature. The reaction mixture was concentrated, and the residue was extracted with chloroform after addition of water and an aqueous sodium hydroxide solution. The chloroform portion was dried and evaporated under reduced pressure to remove the solvent, yielding an oily product. The oil product was purified by silica gel column chromatography (eluent: chloroform-methanol 80:1 to 40:1) to give the desired compound as a colorless oil.

reactant | 2,8-dimethylnonan-5-one | 1.70 g | CC(C)CCC(CCC(C)C)=O | C11H22O
reactant | 1-(7-aminoheptyl)piperidine | 1.98 g | NCCCCCCCN1CCCCC1 | C12H26N2
reactant | hydrochloric acid ethanol | 6 N | Cl.C(C)O
reactant | sodium borohydride | 1.26 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-[7-[4-Methyl-1-(3-methylbutyl)pentylamino]heptyl]-piperidine | CC(CCC(CCC(C)C)NCCCCCCCN1CCCCC1)C | C23H48N2
